US06723675B1
a) Preparation of (2-Pyridylmethyl)-indene
Lithium indenyl (3.0 g, 24.6 mmol) was suspended in THF (20 mL) in a 300 cc Schlenk flask and cooled in a dry ice acetone bath. Into this flask was added slowly a THF (15 mL) solution of 2-picolyl chloride (3.13 g, 24.6 mmol). The resulting suspension was warmed to room temperature gradually and stirred overnight. Solvent was removed under vacuum and the resulting residue was extracted with ether (2×30 mL) and filtered, removal of ether via vacuum resulting in a dark-brown oil (yield, 4.0 g).

reactant | 2-picolyl chloride | 24.6 mmol, 3.13 g | N1=C(C=CC=C1)CCl | C6H6ClN
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | (2-Pyridylmethyl)-indene | N1=C(C=CC=C1)CC1C=CC2=CC=CC=C12 | C15H13N
